* ============================================================
* TLV9061_generic.lib
* Generic rail-to-rail I/O op-amp macromodel, approximating the
* TI TLV9061 (single, SOT-23-5) for FUNCTIONAL ngspice simulation.
*
* This is NOT the TI datasheet model. It captures the behavior that
* matters for this board:
*   - high open-loop DC gain      (~100 dB)
*   - gain-bandwidth product      (~10 MHz, single dominant pole)
*   - rail-to-rail OUTPUT clamp   (output saturates ~15 mV from each rail)
*   - very high differential input impedance
*
* It intentionally ignores: input offset/bias, slew-rate limiting,
* noise, supply current, temperature. Swap in TI's PSpice model later
* for datasheet accuracy (same pin map -> drop-in replacement).
*
* Node order matches the KiCad symbol pin numbers (SOT-23-5):
*   node 1 = OUT   (symbol pin 1)
*   node 2 = V-    (symbol pin 2)
*   node 3 = IN+   (symbol pin 3)
*   node 4 = IN-   (symbol pin 4)
*   node 5 = V+    (symbol pin 5)
* -> KiCad pin assignment is straight-through: 1=1 2=2 3=3 4=4 5=5
* ============================================================
.SUBCKT TLV9061 out vee inp inn vcc
* --- differential input (high impedance) ---
Rin   inp inn 1T
* --- transconductance + dominant pole ---
*   Aol = Gm * Rp        = 1m * 100Meg = 1e5   (100 dB)
*   GBW = Gm / (2*pi*Cp)  = 1m / (2*pi*15.9p) ~ 10 MHz
Gm    0  ng  inp inn 1m
Rp    ng 0   100Meg
Cp    ng 0   15.9p
* --- output stage: clamp internal node to the supply rails (RRIO) ---
Bclamp nc 0  V = min(max(V(ng), V(vee)+0.015), V(vcc)-0.015)
Rout  nc out 100
.ENDS TLV9061
